Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Shortness of breath and neck discomfort
 
Major Surgical or Invasive Procedure:
___ Left heart catheterization and PCI: Severe multivessel 
disease, including
distal LAD disease after LIMA touchdown, occluded RCA and 
subtotally occluded SVG to RCA, and critical proximal LCx 
disease. Successful Impella supported
PCI of the LCx, single stent placed.

 
History of Present Illness:
___ w/ hx of HTN/DMII, 3v CAD s/p CABG (___), AV conduction
disease s/p dual chamber PPM placement (___), who presents as a
transfer from ___ for neck pain and NSTEMI.

The pt states that last night he experienced sudden onset
shortness of breath and neck discomfort while getting into bed.
Per the pt, these symptoms occasionally occur, but typically
dissipate without any intervention. Last night however, his
symptoms persisted, prompting him to present to the ___. 

At ___ he was found to have a troponemia to 1.371 ___s
an elevated BNP. He was given nitropaste and IV Lasix before
being transferred to ___ for further management of NSTEMI and
consideration for cardiac catheterization.

In the ED, initial vitals were T 98.6, HR 89, BP 108/78, RR 18,
O2 98% on 1L.

Labs were notable for: 
- Leukocytosis of 14.7 (88.4% PMNs)
- BUN/Cr ___
- Trop T 0.57, CK 444, MB 52, MBI 11.7
- proBNP 5247

Studies were notable for:
- EKG w/ A sensed V paced rhythm, ischemic changes difficult to
assess in setting of ventricular pacing
- CXR w/ interval increase in subpleural reticular nodularity in
bilateral lower lobe  suggestive of interstitial abnormality. 

The patient was given: 243mg ASA.

Cardiology was consulted and advised against starting a heparin
gtt. The pt was admitted to the cardiology service for further
management.

On arrival to the floor, the pt endorsed the above history,
adding that his neck pain had improved and was now ___. He
endorsed DOE, which he says is chronic, and significantly
limiting activity. At baseline, he is not able to ambulate 
beyond
minimal activity in the house. Further complained of a chronic
dry cough and calf pain with ambulation. The pt denied CP,
palpitations, PND/orthopnea, ___ swelling.
 
Past Medical History:
- HTN
- HLD
- Asthma
- Stroke 
- GERD
- Peripheral vascular disease
- CAD: 3 vessel disease s/p CABG ___
- AV conduction disease, RBBB s/p dual chamber PPM placement 
___
 
Social History:
___
Family History:
No family history of cardiovascular disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.5, BP 111/80, HR 96, RR 18, O2 97% on RA
GENERAL: Alert and interactive, NAD
NECK: JVD elevated 14cm, +HJR
CARDIAC: RRR, ___ holosystolic murmur, no rubs/gallops
LUNGS: Scattered expiratory wheezes, trace bibasilar crackles 
ABDOMEN: Soft, non tender, non distended, BS+
EXTREMITIES: No peripheral edema, DP intact
SKIN: Warm and well perfused
NEUROLOGIC: AOx3, CNII-XII grossly intact, moving extremities,
gait deferred

DISCHARGE PHYSICAL EXAM:
========================
___ 0736 Temp: 97.9 PO BP: 101/70 R Lying HR: 72 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: Alert and interactive, NAD
NECK: JVD ~10cm
CARDIAC: nl rate, reg rhythm, ___ holosystolic murmur, no
rubs/gallops
LUNGS: CTAB
ABDOMEN: Soft, non tender, non distended, BS+
EXTREMITIES: No peripheral edema, DP intact

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:45AM BLOOD WBC-14.7* RBC-4.63 Hgb-14.0 Hct-44.0 
MCV-95 MCH-30.2 MCHC-31.8* RDW-13.0 RDWSD-45.0 Plt ___
___ 12:45AM BLOOD Neuts-88.4* Lymphs-5.9* Monos-4.8* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-12.95* AbsLymp-0.87* 
AbsMono-0.71 AbsEos-0.02* AbsBaso-0.04
___ 12:45AM BLOOD ___ PTT-27.7 ___
___ 12:45AM BLOOD Glucose-140* UreaN-22* Creat-1.4* Na-135 
K-5.2 Cl-97 HCO3-24 AnGap-14
___ 12:45AM BLOOD CK(CPK)-444*
___ 12:45AM BLOOD CK-MB-52* MB Indx-11.7* proBNP-5247*
___ 04:06AM BLOOD %HbA1c-5.8 eAG-120
___ 09:31PM BLOOD Lactate-1.4
___ 12:45AM BLOOD cTropnT-0.57*
___ 02:55PM BLOOD CK-MB-34* MB Indx-9.9* cTropnT-1.50*

DISCHARGE LABS
================
___ 07:22AM BLOOD WBC-6.8 RBC-3.86* Hgb-11.8* Hct-36.7* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-13.2 RDWSD-45.1 Plt ___
___ 07:22AM BLOOD ___ PTT-28.3 ___
___ 07:22AM BLOOD Glucose-98 UreaN-21* Creat-1.3* Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-13
___ 07:22AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.8

PROCEDURES
==========
___ Left Heart Catheterization and PCI: Severe multivessel 
disease, including distal LAD disease after LIMA touchdown, 
occluded RCA and subtotally occluded SVG to RCA, and critical 
proximal LCx disease. Successful Impellasupported PCI of the 
LCx, single stent placed.

___ TTE
IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
normal cavity size and mild regional systolic dysfunction c/w 
CAD in an RCA distribution and dyssynchrony due to pacing. Mild 
mitral regurgitation. Mild tricuspid regurgitation. Mild 
pulmonary artery systolic
hypertension.
Compared with the prior TTE ___ , the left ventricular 
systolic function is now mildly depressed.

___ CT Abd/Pelvis
FINDINGS:  
  
LOWER CHEST: There are small bilateral pleural effusions with 
associated 
atelectasis.  Areas of subpleural reticular opacities and 
fibrosis likely due 
to chronic interstitial lung disease.  Distal lead of cardiac 
pacer is seen in 
the right ventricle. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout.  
There is no evidence of focal lesions within the limitations of 
an unenhanced 
scan.  There is no evidence of intrahepatic or extrahepatic 
biliary 
dilatation.  The gallbladder is surgically absent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions within the limitations of an unenhanced scan.  
There is no 
pancreatic ductal dilatation.  There is no peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: Both kidneys are atrophic.  There is no hydronephrosis. 
 There is no 
renal mass. 
  
GASTROINTESTINAL: Small hiatal hernia is seen. Small bowel loops 
demonstrate 
normal caliber and wall thickness throughout.  The colon and 
rectum are within 
normal limits. 
  
PELVIS: The urinary contain excreted contrast.  Small bladder 
diverticulum is 
seen in left posterior bladder (series 2, image 75).  There is 
no free fluid 
in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate is enlarged. 
  
LYMPH NODES: There are prominent right femoral lymph nodes 
largest measuring 
1.4 x 1.5 cm (series 2, image 86) likely reactive.  There is no 
retroperitoneal or mesenteric lymphadenopathy.  There is no 
pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Extensive 
atherosclerotic 
disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
Midline sternotomy wires are seen.  There is mild compression 
deformities of 
the L2 and L5 vertebral bodies.  Extensive degenerative changes 
are seen in 
the spine. 
  
SOFT TISSUES: Skin defect and packing material are seen in the 
right groin.  
Infiltration of subcutaneous fat in the right groin is 
postprocedural. 
  
IMPRESSION: 
  
1. No retroperitoneal bleed or hematoma correlating to recent 
hypotension and 
decreased hemoglobin levels.  Post-procedure changes along the 
right groin 
without evidence of complication. 
2. Bilateral small pleural effusions with associated 
atelectasis. 
3. Chronic interstitial lung disease is partially visualized. 
4. Small hiatal hernia. 

 
Brief Hospital Course:
___ w/ hx of HTN/DMII, 3 vessel CAD s/p CABG (___), AV 
conduction disease s/p dual chamber PPM placement (___), who 
presents as a transfer from ___ with neck pain as 
an anginal equivalent and found to have NSTEMI. He underwent 
coronary angiography ___ demonstrating severe multivessel 
disease, including distal LAD disease after LIMA touchdown, 
occluded RCA and subtotally occluded SVG to RCA, and critical 
proximal LCx disease. Underwent successful Impella supported PCI 
of the LCx. Procedure was complicated by brief cardiogenic shock 
requiring impella with resolution. Triggered for hypotension on 
evening of PCI, likely due to anesthesia/vasoplegia, 
normotensive thereafter. Added back home medications metoprolol 
and lisinopril and imdur without issue. Rosuvastatin was started 
at low dose 5mg daily given statin intolerances in past. Day 
prior to discharge, while walking, telemetry captured him in 
atrial fibrillation w/ RBBB morphology; this was corroborated by 
detection of atrial high rate episodes on interrogation by 
electrophysiology team. He was found to be in AF much more 
frequently than prior, and started on dose-reduced apixaban.

ACUTE/ACTIVE ISSUES:
====================
# NSTEMI s/p stent to LCx ___
# CAD s/p CABG ___
Patient presented w/ neck pain and SOB, EKG appeared unchanged 
in the setting of elevated troponin concerning for anginal 
equivalent. Trops elevated and downtrending, now s/p LHc with 
severe multivessel disease, including distal LAD disease after 
LIMA touchdown, occluded RCA and subtotally occluded SVG to RCA, 
and critical proximal LCx afterwards thought to be due to 
anesthetic vasoplegia. He had recovery and was normotensive 
after. Restarted home meds with good effect. Started 
rosuvastatin 5mg without complication despite history of 
myalgias with other statins.

# CHF, new reduced EF 45-50%
Newly reduced EF noted this admission. No diuresis required as 
he autodiuresed small amount. Unknown dry weight, weight on 
discharge was 184 pounds. 

# AF
On day prior to discharge, he had periods of wide-complex 
tachycardia while having a bowel movement and later while 
walking. This was associated with awareness of increased heart 
rate but no other symptoms. He had EP evaluation and on device 
interrogation was found to have atrial fibrillation with 
aberrant conduction. He has been followed by Dr.
___ will see him day after discharge to follow up 
increased metoprolol to 75 mg daily. He was also started on 
apixaban 2.5mg BID (dose reduced for Cr 1.5, age>___, triple 
therapy with DAPT). Increase from metop tart 25 BID to metop 
succ 75 daily. 

CHRONIC/STABLE ISSUES:
======================
# Hx of AV conduction disease
# Hx of RBBB - s/p ___ Pacemaker Versa ___ ___ placement 
in ___.

# HTN - Initially held for catheterization and then resumed home 
metoprolol, lisinopril, and imdur and increased home metoprolol 
to 75mg succinate daily on discharge. 

# HLD - On admission not on a statin due to reported 
intolerance. Started rosuvastatin 5mg daily which he tolerated. 

# DMII - Per report only, not on home insulin or oral 
antiglyemics. A1C 5.8%.

# Asthma - Provided home albuterol, flovent.

# CKD - Pt admitted w/ Cr 1.4. Review of prior labs 
demonstrating Cr 1.2-1.5 for the past several years. He remained 
within his baseline. 

# GERD - Continued on home omeprazole.

TRANSITIONAL ISSUES
==================
NEW/CHANGED/STOPPED MEDICATIONS
- Started apixiban 2.5mg PO BID for atrial fibrillation
- Increased home metoprolol to XL 75mg daily
- Started rosuvastatin 5mg PO QPM

[ ] Follow-up rate control, ongoing consideration of apixiban 
for atrial fibrillation, and rosuvastatin tolerance at 
cardiology follow-up
[ ] Repeat electrolytes in 2 weeks after re-starting lisinopril 
___

# CONTACT: ______), daughter ___
# DISPO: ___ pending above
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN SOB 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
4. Aspirin 81 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Lisinopril 10 mg PO QAM 
8. Lisinopril 20 mg PO QHS 
9. Metoprolol Tartrate 25 mg PO BID 
10. Omeprazole 20 mg PO DAILY:PRN GERD 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 75 mg PO DAILY 
RX *metoprolol succinate 50 mg 1.5 tablet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0 
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Neck/Chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually Once:PRN Disp 
#*5 Tablet Refills:*0 
4.  Rosuvastatin Calcium 5 mg PO QPM 
RX *rosuvastatin 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Aspirin 81 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN SOB  
10.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
11.  Lisinopril 10 mg PO QAM  
12.  Lisinopril 20 mg PO QHS  
13.  Omeprazole 20 mg PO DAILY:PRN GERD  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Non-ST elevation myocardial infarction

SECONDARY DIAGNOSIS: Atrial fibrillation, Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You had neck and chest pain that wouldn't go away

What happened while you were in the hospital?
- You had heart catheterization and the cardiologists found 
extensive blockages in your vessels, including some in your 
bypass grafts.
- They were able to put a stent in your vessel called the "left 
circumflex artery"
- Your heart is relying very heavily on this vessel
- You had low blood pressures after the procedure, likely due to 
anesthesia, and they got better
- Your medications were restarted one by one to make sure you 
did well
- Your heart went into atrial fibrillation more than it used to, 
so metoprolol dosing was increased to slow the heart rate, and a 
new blood thinner apixaban was started to prevent blood clots.

What should you do once you leave the hospital?
- With the stent, you should take aspirin and plavix EVERY day. 
Do not miss any doses or the stent could clot off.
- metoprolol was increased to 75mg daily, extended release 
version that can be taken once in the morning.
- Your new medications are:
---rosuvastatin 5mg daily. Please continue to take this to help 
prevent future blockages.
---apixiban 2.5mg twice daily. This is a blood thinning 
medication to prevent the type of blood clots that can form with 
atrial fibrillation.
- If you have any trouble with your medications, let your 
Cardiologist know.
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___